US06140503
To a flask containing a mixture of 4,4'-dibromobenzophenone (5.0 g, 14.7 mmol), PdCl2 (PPh3)2 (0.42 mg, 0.60 mmol), and CuI (60 mg, 0.30 mmol) was added THF (100 mL), iPr2NH (20 mL) and trimethylsilylacetylene (4.6 mL, 32.5 mmol) under a nitrogen atmosphere. The mixture was stirred at room temperature for 40 hours. The solvent was removed under vacuum, and the residue was extracted with CH2Cl2 /H2O. The organic layer was collected, dried over MgSO4, filtered through Al2O3, and pumped dry. The residue was recrystallized from CH2Cl2 /hexane at -30° C. to afford pale brown crystalline 4,4'-bis(trimethylsilylethynyl)benzophenone in 96% yield (5.29 g). 1H NMR (300 MHz, C6D6, 25° C., TMS): δ=0.25 (s, 18 H, CH3), 7.53 (d, J=8.6 Hz, 4 H, C6H4), 7.69 (d, 4 H, C6H4). To a mixture of 4,4'-bis(trimethylsilylethynyl)benzophenone (1.0 g, 2.67 mmol) and KOH (0.30 g, 5.36 mmol) was added 50 mL of MeOH and the solution was stirred at room temperature for 3 hours. The solution was then extracted with Et2O. The Et2O solution was pumped dry and the residue was chromatographed using EtOAc/hexane (1:50 to 1:5) as eluent to afford 4,4'-diethynylbenzophenone in 68% yield (0.42 g).

reactant | 4,4'-bis(trimethylsilylethynyl)benzophenone | 2.67 mmol, 1.0 g | C[Si](C)(C)C#CC1=CC=C(C(=O)C2=CC=C(C=C2)C#C[Si](C)(C)C)C=C1 | C23H26OSi2
reactant | KOH | 5.36 mmol, 0.30 g | [OH-].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | 4,4'-diethynylbenzophenone | 68% yield | C(#C)C1=CC=C(C(=O)C2=CC=C(C=C2)C#C)C=C1 | C17H10O
